US08871361B2
Concentrated HCl (35 mL, 420 mmol) was slowly added to water (55 mL) and then 2-(2-methoxyvinyl)-1,3-dimethylbenzene (11.2 g, 69.0 mmol) in dioxane (35 mL) was added in one portion. The biphasic mixture was heated to reflux for 16 h, cooled to room temperature and extracted with ethyl acetate (3×100 mL). After drying over sodium sulfate, filtering and removing the solvent under reduced pressure, the crude material was purified by bulb-to-bulb distillation (100° C., 93 mbar) to give 8.8 g (86%) of 2-(2,6-dimethylphenyl)acetaldehyde as a white solid. The product was confirmed by GC/MS and NMR.

reactant | HCl | 420 mmol, 35 mL | Cl | ClH
reactant | water | 55 mL | O | H2O
reactant | 2-(2-methoxyvinyl)-1,3-dimethylbenzene | 69.0 mmol, 11.2 g | COC=CC1=C(C=CC=C1C)C | C11H14O
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 2-(2,6-dimethylphenyl)acetaldehyde | 8.8 g, 86% | CC1=C(C(=CC=C1)C)CC=O | C10H12O
